US07019026B1
To a solution of Ac-D-Val-OH (0.17 g, 1.09 mmol) dissolved in dichloromethane (15 ml) was added N,N-dimethylformamide (1 ml), 1-hydroxybenzotriazole (0.15 g, 1.09 mmol) and 1-ethyl-3-(3-dimethylamino-propyl)carbodiimide hydrochloride (0.21 g, 1.09 mmol). The reaction mixture was stirred for 15 min. at room temperature at which time a solution of 2-amino-7-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester (0.31 g, 1.09 mmol) in dichloromethane (10 ml) was added followed by N,N-diisopropylethylamine (0.186 ml, 1.09 mmol). The resulting mixture was stirred over night at room temperature diluted with dichloromethane (10 ml) washed with 10% aqueous citric acid (20 ml), sodium hydrogencarbonate, dried (MgSO4), filtered and the solvent was evaporated in vacuo affording 415 mg (90%) of 7-((2-(R)-acetylamino-3-methyl-butyrylamino)methyl)-2-amino-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester as an oil.

reactant | Ac-D-Val-OH | 1.09 mmol, 0.17 g | N([C@H](C(C)C)C(=O)O)C(=O)C | C7H13NO3
reactant | 1-hydroxybenzotriazole | 1.09 mmol, 0.15 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylamino-propyl)carbodiimide hydrochloride | 1.09 mmol, 0.21 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-amino-7-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 1.09 mmol, 0.31 g | C(C)(C)(C)OC(=O)C1=C(SC=2C(OCCC21)CN)N | C13H20N2O3S
reactant | N,N-diisopropylethylamine | 1.09 mmol, 0.186 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 7-((2-(R)-acetylamino-3-methyl-butyrylamino)methyl)-2-amino-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 415 mg, 90% | C(C)(C)(C)OC(=O)C1=C(SC=2C(OCCC21)CNC([C@@H](C(C)C)NC(C)=O)=O)N | C20H31N3O5S
